* gnetlist -g spice-sdb -o diode-vi.net diode-vi.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ../models/1N4007.mod vvvvvvvv
.MODEL 1N4007 D(IS=76.9p RS=42.0m BV=1.00k IBV=5.00u CJO=26.5p  M=0.333 N=1.45 TT=4.32u)
*^^^^^^^^  End of included SPICE model from ../models/1N4007.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
.options TEMP=25
D2 2 0 1N4007 
R2 1 2 100  
V2 1 0 5
.end
